US04343939
Bis(p-diethylaminophenyl)Methoxy Acetanilide
A solution of 4,4'-bis(N,N-diethylamino)benzhydrol (11.0 g, 0.034 mole), glycolanilide (5.1 g, 0.034 mole), 37.5 ml of methyl ethyl ketone, 112.5 ml of n-hexane, and 7 drops of methanesulfonic acid was refluxed for about 2 hours, removing water as formed. The solution was then treated with 5 drops of tetramethyl-guanidine and filtered hot. On cooling, the filtrate yielded a tan precipitate. The precipitate was filtered, washed with n-hexane, and dried. The pale yellow solid was recrystallized from 80 ml of methylcyclohexane and 450 ml of acetone to give a solid product, mp 123°-125° C.

reactant | 4,4'-bis(N,N-diethylamino)benzhydrol | 0.034 mole, 11.0 g | C(C)N(CC)C1=CC=C(C(C2=CC=C(C=C2)N(CC)CC)O)C=C1 | C21H30N2O
reactant | glycolanilide | 0.034 mole, 5.1 g | C(CO)(=O)NC1=CC=CC=C1 | C8H9NO2
reactant | methyl ethyl ketone | 37.5 ml | C(C)C(=O)C | C4H8O
catalyst | methanesulfonic acid | 7 drops | CS(=O)(=O)O | CH4O3S
catalyst | tetramethyl-guanidine | 5 drops | CN(C(N(C)C)=N)C | C5H13N3
solvent | n-hexane | 112.5 ml | CCCCCC | C6H14
product | Bis(p-diethylaminophenyl)Methoxy Acetanilide | C(C)N(C1=CC=C(C=C1)C(OCC(=O)NC1=CC=CC=C1)C1=CC=C(C=C1)N(CC)CC)CC | C29H37N3O2
